US08044043B2
Triisopropyl(1-(2-vinylphenyl)pent-4-enyloxy)silane.
1-Bromo-2-vinylbenzene (2.8146 g, 15.38 mmol) was azeotropped by dry benzene twice before taken up in THF (50 ml). The solution was cooled to −78° C. BuLi (6.77 ml, 16.91 mmol) was added to the reaction mixture at −78° C. and stirred for 20 min at this temperature. pent-4-enal (1.670 ml, 16.91 mmol) was added to the reaction mixture and stirred for 4 hours while the bath temperature gradually warmed up. Chlorotriisopropylsilane (3.58 ml, 16.91 mmol) was added to the reaction mixture and the reaction was stirred overnight while the reaction was warmed up to room temperature. The solvent was mostly removed via vacuum and the crude was partitioned between ethyl acetate and water. The ethyl acetate layer was separated, dried (Na2SO4), filtered and concentrated. The product was obtained by flash column eluted with ether in hexane from 0 to 30% (3.9 g, 74% yield). MS(ESI)[M+H+]=346.46.

reactant | 1-Bromo-2-vinylbenzene | 15.38 mmol, 2.8146 g | BrC1=C(C=CC=C1)C=C | C8H7Br
reactant | BuLi | 16.91 mmol, 6.77 ml | [Li]CCCC
reactant | pent-4-enal | 16.91 mmol, 1.670 ml | C(CCC=C)=O | C5H8O
reactant | Chlorotriisopropylsilane | 16.91 mmol, 3.58 ml | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Triisopropyl(1-(2-vinylphenyl)pent-4-enyloxy)silane | 74% yield | C(C)(C)[Si](OC(CCC=C)C1=C(C=CC=C1)C=C)(C(C)C)C(C)C | C22H36OSi
